US04707478
1-Cyano-3-(4-pyridylmethyl)-guanidine
4-Amino methyl pyridine (16.22 g) is added to a stirred suspension of N-cyano-O-(m-cresyl)pseudourea (27.51 g) in 200 ml of isopropanol. The mixture is heated to boiling and refluxed for five hours. The reaction mixture is filtered and the filtrate evaporated under reduced pressure. The residue is stirred in 250 ml of chloroform overnight, the solvent removed under reduced pressure, treated with 250 ml of diethyl ether, the ether decanted and the residual gum treated with 200 ml of 5% HCl and stirred at room temperature for one hour. The mixture is filtered, extracted twice with 200 ml portions of diethyl ether and cooled to about 5° C. The solution is treated carefully with a 50% aqueous sodium hydroxide solution to a pH of 9 and extracted twice with 250 ml portions of methylene chloride. The organic extracts are combined, dried, filtered and evaporated to dryness under reduced pressure leaving a small amount of colored liquid. The aqueous layer is saturated with sodium chloride and re-extracted. After drying, the extracts are evaporated under reduced pressure. The aqueous phase is concentrated under reduced pressure and diluted with ethanol. The precipitated salts are removed by filtration and the filtrate concentrated under reduced pressure. The residue is azeotroped with 150 ml of toluene. The residue is stirred with 250 ml of isopropanol, filtered and evaporated under reduced pressure. The residue is triturated with 250 ml of isopropanol and filtered. The filtrate is dried, filtered, and evaporated under reduced pressure. The residue is taken up in a methanol/ethyl acetate mixture and allowed to stand. After trituration, the mixture is stirred in water overnight, the precipitate then collected and dried in air. The off-white solid is recrystallized from water yielding 12.10 g of pale yellow crystals which are dried in vacuo (55° C.), MP 92°- 93° C. IR and elemental analysis indicate the desired guanidine.

reactant | 4-Amino methyl pyridine | 16.22 g | NCC1=CC=NC=C1 | C6H8N2
reactant | N-cyano-O-(m-cresyl)pseudourea | 27.51 g | C(#N)NC(OC1=CC(=CC=C1)C)=N | C9H9N3O
reactant | sodium chloride | [Cl-].[Na+]
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-Cyano-3-(4-pyridylmethyl)-guanidine | C(#N)NC(=N)NCC1=CC=NC=C1 | C8H9N5
